US03931358
Phenylsulfonylacetonitrile.
Benzene sulfinic acid sodium salt, 49.2 g. (0.3 mole) was combined with 400 ml. of dimethyl formamide in a 1 liter flask. The mixture was stirred at 40°C. Chloroacetonitrile, 22.5 g. (0.3 mole) was added over a period of 5 minutes. The resulting mixture was stirred and heated at 40°-45°C. for 2 hours. The reaction mass was then poured into 600 ml. of water, and the solid insoluble product was collected by suction filtration and dried. There was obtained a yield of 29.8 g. of the title compound, m.p. 111°-112°C.

reactant | Benzene sulfinic acid sodium salt | [Na+].C1(=CC=CC=C1)S(=O)[O-]
reactant | Chloroacetonitrile | ClCC#N | C2H2ClN
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | Phenylsulfonylacetonitrile | C1(=CC=CC=C1)S(=O)(=O)CC#N | C8H7NO2S
